US06727264B1
2-METHYL-N-{3-[1-(3-{1-METHYL-2-[4-(TRIFLUOROMETHYL)PHENYL]-1H-INDOL-3-YL}PROPYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
Prepared by Procedure E and Scheme M using 2-methyl-N-[3-(1-{5-oxo-5-[4-(trifluoromethyl)phenyl]pentyl}-4-piperidinyl)phenyl]propanamide and 1-methyl-1-phenylhydrazine: ESMS m/e: 562.2 (M+H)+.

reactant | 2-methyl-N-[3-(1-{5-oxo-5-[4-(trifluoromethyl)phenyl]pentyl}-4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCC(C1=CC=C(C=C1)C(F)(F)F)=O)C | C27H33F3N2O2
reactant | 1-methyl-1-phenylhydrazine | CN(N)C1=CC=CC=C1 | C7H10N2
product | 2-METHYL-N-{3-[1-(3-{1-METHYL-2-[4-(TRIFLUOROMETHYL)PHENYL]-1H-INDOL-3-YL}PROPYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCC1=C(N(C2=CC=CC=C12)C)C1=CC=C(C=C1)C(F)(F)F)C | C34H38F3N3O
